US07056952B1
1-(2,4-dihydroxyphenyl)-2-(3′,4′-dihydroxyphenyl)-1-oxopropane; structure (V)
The title compound was obtained by catalytic hydrogenation of 1-(2,4-dihydroxyphenyl)-2-(3′,4′-dihydroxyphenyl)-1-oxo-2-propene obtained as in Example 3 or Example 4. To a solution of 1-(2,4-dihydroxyphenyl)-2-(3′,4′-dihydroxyphenyl)-1-oxo-2-propene in methanol was added palladium on carbon, and hydrogen gas was bubbled vigorously through the solution for ten minutes. Removal of the catalyst and evaporation of the solvent afforded the title compound.

reactant | 1-(2,4-dihydroxyphenyl)-2-(3′,4′-dihydroxyphenyl)-1-oxo-2-propene | OC1=C(C=CC(=C1)O)C(C(=C)C1=CC(=C(C=C1)O)O)=O | C15H12O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(2,4-dihydroxyphenyl)-2-(3′,4′-dihydroxyphenyl)-1-oxopropane | OC1=C(C=CC(=C1)O)C(C(C)C1=CC(=C(C=C1)O)O)=O | C15H14O5
